US05817690
4-(2-Azidoethoxy)-7-fluoro-1,3-dihydro-indol-2-one
A solution of 4-(2-chloroethoxy)-7-fluoro-1,3-dihydro-indol-2-one (2.04 g, 8.88 mmol) and sodium azide in dimethylformamide (125 mL) was heated to 70° C. for 18 hours. The reaction mixture was partitioned between methylene chloride (100 mL) and water (100 mL). The organic layer separated and washed with water (50 mL) then dried over anhydrous magnesium sulfate, filtered, and the solvent removed under vacuum. The crude product was filtered through a pad of silica to afford a yellow solid, mp 147°-148° C. MS EI m/e 261 (M+).

reactant | 4-(2-chloroethoxy)-7-fluoro-1,3-dihydro-indol-2-one | 8.88 mmol, 2.04 g | ClCCOC1=C2CC(NC2=C(C=C1)F)=O | C10H9ClFNO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
product | 4-(2-Azidoethoxy)-7-fluoro-1,3-dihydro-indol-2-one | N(=[N+]=[N-])CCOC1=C2CC(NC2=C(C=C1)F)=O | C10H9FN4O2
